US07109354B2
d) (5-{3-[3′-(5-Carbamimidoyl-2-methylsulfanyl-thiophene-3-sulfonyl)-6-methyl-biphenyl-2-yl]-ureido}-pentyl)-phosphonic acid
[5-(3-{3′-[5-(tert-Butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-biphenyl-2-yl}-ureido)-pentyl]-phosphonic acid (0.058 g, 0.076 mmol), trimethylsilyl iodide (0.162 g, 0.756 mmol) and DCM [5 mL] were added to a flask and heated to 40° C. for 10 minutes. The reaction was removed from the heat bath and allowed to stir at room temperature for 1 hour. H2O [56 μL] was added to this solution and stirred for 1 hour. The reaction was concentrated in vacuo. MeOH [2 mL] and 20 wt. % HCl (aq.) [84 μL] were added to the concentrate and allowed to stir at room temperature for 18 hours. Reaction was concentrated in vacuo followed by reverse-phase HPLC [acetonitrile/water (0.01% TFA)] to yield the title compound. ESI-MS (m/z): Calcd. for C25H31N4O6PS3: 611.71 (M+H); found 611.0.

reactant | [5-(3-{3′-[5-(tert-Butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-biphenyl-2-yl}-ureido)-pentyl]-phosphonic acid | 0.076 mmol, 0.058 g | C(C)(C)(C)OC(=O)NC(C1=CC(=C(S1)SC)S(=O)(=O)C=1C=C(C=CC1)C1=C(C=CC=C1C)NC(NCCCCCP(O)(O)=O)=O)=N | C30H39N4O8PS3
reactant | trimethylsilyl iodide | 0.756 mmol, 0.162 g | C[Si](C)(C)I | C3H9ISi
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (5-{3-[3′-(5-Carbamimidoyl-2-methylsulfanyl-thiophene-3-sulfonyl)-6-methyl-biphenyl-2-yl]-ureido}-pentyl)-phosphonic acid | C(N)(=N)C1=CC(=C(S1)SC)S(=O)(=O)C=1C=C(C=CC1)C1=C(C=CC=C1C)NC(NCCCCCP(O)(O)=O)=O | C25H31N4O6PS3
